US07368578B2
A mixture of 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)benzonitrile (26.3 g), vanillin (17.19 g), anhydrous potassium carbonate (15.62 g) and N,N-dimethylformamide (300 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give 3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile as colorless crystals (33.9 g, yield 86%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 166-167° C.

reactant | 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)benzonitrile | 26.3 g | ClCC=1N=C(OC1C)C=1C=C(C#N)C=CC1 | C12H9ClN2O
reactant | vanillin | 17.19 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | potassium carbonate | 15.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile | 33.9 g, yield 86% | C(=O)C1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C#N)C=CC2)C=C1)OC | C20H16N2O4
